US07371749B2
2-Chloromethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester hydrochloride
A solution of 2-hydroxymethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester (250 mg, 1.5 mmol) in ethyl acetate/methanol 6 ml, 1:1) was converted to the hydrochloride by usage of an excess of an etheral solution of hydrogen chloride. After evaporation, the light brown residue was treated with thionyl chloride (1.1 ml, 15 mmol) and stirred for 0.5 h. After evaporation, the title compound was obtained as brown solid (100% yield). MS: m/e=189(M+H+), mp 106-108° C.

reactant | 2-hydroxymethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester | 1.5 mmol, 250 mg | COC(=O)C=1N(C(=NC1)CO)C | C7H10N2O3
reactant | hydrochloride | Cl | ClH
reactant | thionyl chloride | 15 mmol, 1.1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate methanol | 6 ml | C(C)(=O)OCC.CO
product | 2-Chloromethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C=1N(C(=NC1)CCl)C | InChI=1S/C7H9ClN2O2.ClH/c1-10-5(7(11)12-2)4-9-6(10)3-8;/h4H,3H2,1-2H3;1H
